US04464531
Following a procedure similar to that of Example 1 but using 2,3,5-tri-O-acetyl-D-ribofuranosyl chloride prepared from 2.50 g of 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose and 1.022 g of 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate there was obtained 0.986 g of 1-(4-nitrobenzyl)-4-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)oxy-1H-imidazole-5-carboxamide which was recrystallized from ethanol. m.p. 155.5°-156.5° C.

reactant | 2,3,5-tri-O-acetyl-D-ribofuranosyl chloride | C(C)(=O)O[C@H]1C(O[C@@H]([C@H]1OC(C)=O)COC(C)=O)Cl | C11H15ClO7
reactant | 1,2,3,5-tetra-O-acetyl-β-D-ribofuranose | 2.50 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
reactant | 5-carbamoyl-1-(4-nitrobenzyl)imidazolium-4-olate | 1.022 g | C(N)(=O)C1=C(NC=[N+]1CC1=CC=C(C=C1)[N+](=O)[O-])[O-] | C11H10N4O4
product | 1-(4-nitrobenzyl)-4-(2,3,5-tri-O-acetyl-β-D-ribofuranosyl)oxy-1H-imidazole-5-carboxamide | 0.986 g | [N+](=O)([O-])C1=CC=C(CN2C=NC(=C2C(=O)N)O[C@H]2[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)C=C1 | C22H24N4O11
